* c:\users\shanthipriya\esim-workspace\030\030.cir

.include 74_1030.sub
x1 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ net-_u10-pad1_ 74_1030
* u9  a1 a2 a3 a4 a5 a6 a7 a8 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ adc_bridge_8
* u10  net-_u10-pad1_ out dac_bridge_1
v1  a1 gnd pulse(0 5 0 1n 1n 2m 4m)
v2  a2 gnd pulse(0 5 0 1n 1n 4m 8m)
v3  a3 gnd pulse(0 5 0 1n 1n 8m 16m)
v4  a4 gnd pulse(0 5 0 1n 1n 16m 32m)
v5  a5 gnd pulse(0 5 0 1n 1n 32m 64m)
v6  a6 gnd pulse(0 5 0 1n 1n 64 128m)
v7  a7 gnd pulse(0 5 0 1n 1n 128m 256m)
v8  a8 gnd pulse(0 5 0 1n 1n 256m 512m)
* u11  out plot_v1
* u1  a1 plot_v1
* u2  a2 plot_v1
* u3  a3 plot_v1
* u4  a4 plot_v1
* u5  a5 plot_v1
* u6  a6 plot_v1
* u7  a7 plot_v1
* u8  a8 plot_v1
a1 [a1 a2 a3 a4 a5 a6 a7 a8 ] [net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ ] u9
a2 [net-_u10-pad1_ ] [out ] u10
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 300e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)+6 v(a1)+12 v(a2)+18 v(a3)+24 v(a4)+30 v(a5)+36v(a6)+42 v(a7)+48 v(a8)
.endc
.end
