* c:\users\shanthipriya\esim-workspace\frequencydivider\frequencydivider.cir

* u4  net-_u4-pad1_ net-_u1-pad2_ ? ? net-_u3-pad1_ net-_u4-pad1_ d_dff
* u7  net-_u7-pad1_ net-_u3-pad1_ ? ? net-_u10-pad2_ net-_u7-pad1_ d_dff
* u10  net-_u10-pad1_ net-_u10-pad2_ ? ? net-_u10-pad5_ net-_u10-pad1_ d_dff
* u11  net-_u11-pad1_ net-_u10-pad5_ ? ? net-_u11-pad5_ net-_u11-pad1_ d_dff
* u1  /clk net-_u1-pad2_ adc_bridge_1
v1  /clk gnd pulse(0 5 0 1e-9 1e-9 0.0005 0.001)
* u3  net-_u3-pad1_ net-_u10-pad2_ net-_u10-pad5_ net-_u11-pad5_ /f2 /f4 /f8 /f16 dac_bridge_4
* u2  /clk plot_v1
* u9  /f2 plot_v1
* u8  /f4 plot_v1
* u6  /f8 plot_v1
* u5  /f16 plot_v1
a1 net-_u4-pad1_ net-_u1-pad2_ ? ? net-_u3-pad1_ net-_u4-pad1_ u4
a2 net-_u7-pad1_ net-_u3-pad1_ ? ? net-_u10-pad2_ net-_u7-pad1_ u7
a3 net-_u10-pad1_ net-_u10-pad2_ ? ? net-_u10-pad5_ net-_u10-pad1_ u10
a4 net-_u11-pad1_ net-_u10-pad5_ ? ? net-_u11-pad5_ net-_u11-pad1_ u11
a5 [/clk ] [net-_u1-pad2_ ] u1
a6 [net-_u3-pad1_ net-_u10-pad2_ net-_u10-pad5_ net-_u11-pad5_ ] [/f2 /f4 /f8 /f16 ] u3
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u10 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u11 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 5e-03 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(/clk)
plot v(/f2)
plot v(/f4)
plot v(/f8)
plot v(/f16)
.endc
.end
