* C:\Users\Shanthipriya\Desktop\madeeasy\FOSSEE\eSim\library\SubcircuitLibrary\CSA\CSA.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 12/01/24 01:49:41

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X2  Net-_X2-Pad1_ Net-_X2-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ half_adder		
X4  Net-_X3-Pad5_ Net-_X4-Pad2_ Net-_X4-Pad3_ Net-_U1-Pad3_ Net-_X2-Pad1_ full_adder		
X3  Net-_X1-Pad4_ Net-_X3-Pad2_ Net-_X3-Pad3_ Net-_U1-Pad1_ Net-_X3-Pad5_ full_adder		
X1  Net-_X1-Pad1_ Net-_X1-Pad2_ Net-_U1-Pad2_ Net-_X1-Pad4_ half_adder		
X5  Net-_U1-Pad11_ Net-_U1-Pad18_ Net-_U1-Pad16_ Net-_X4-Pad3_ Net-_X2-Pad2_ full_adder		
X6  Net-_U1-Pad14_ Net-_U1-Pad13_ Net-_U1-Pad12_ Net-_X3-Pad3_ Net-_X4-Pad2_ full_adder		
X7  Net-_U1-Pad7_ Net-_U1-Pad15_ Net-_U1-Pad17_ Net-_X1-Pad2_ Net-_X3-Pad2_ full_adder		
X8  Net-_U1-Pad10_ Net-_U1-Pad9_ Net-_U1-Pad8_ Net-_U1-Pad4_ Net-_X1-Pad1_ full_adder		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ PORT		

.end
