* c:\users\shanthipriya\esim-workspace\ved_mul\ved_mul.cir

.include CSA.sub
.include carrylook.sub
.include mux.sub
x2 net-_u16-pad7_ net-_u16-pad8_ net-_u8-pad7_ net-_u8-pad8_ net-_x2-pad5_ net-_x2-pad6_ net-_x2-pad7_ net-_x1-pad2_ mux
x5 net-_u16-pad5_ net-_u16-pad6_ net-_u8-pad7_ net-_u8-pad8_ net-_x5-pad5_ net-_x5-pad6_ net-_x5-pad7_ net-_x5-pad8_ mux
x7 net-_u16-pad7_ net-_u16-pad8_ net-_u8-pad5_ net-_u8-pad6_ net-_x6-pad5_ net-_x6-pad6_ net-_x6-pad7_ net-_x6-pad8_ mux
x8 net-_u16-pad5_ net-_u16-pad6_ net-_u8-pad5_ net-_u8-pad6_ net-_u15-pad1_ net-_u15-pad2_ net-_x6-pad1_ net-_x6-pad2_ mux
x6 net-_x6-pad1_ net-_x6-pad2_ net-_u13-pad2_ net-_u13-pad2_ net-_x6-pad5_ net-_x6-pad6_ net-_x6-pad7_ net-_x6-pad8_ net-_x5-pad5_ net-_x5-pad6_ net-_x5-pad7_ net-_x5-pad8_ net-_u12-pad1_ net-_x3-pad1_ net-_x3-pad2_ net-_x3-pad3_ net-_x3-pad5_ net-_x3-pad6_ CSA
* u2  /b3 plot_v1
* u3  /b2 plot_v1
* u5  /b1 plot_v1
* u7  /b0 plot_v1
* u6  net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_r3-pad1_ /m7 /m6 dac_bridge_3
* u10  net-_u10-pad1_ net-_u10-pad2_ /m4 /m5 dac_bridge_2
* u12  net-_u12-pad1_ net-_u12-pad2_ /m2 /m3 dac_bridge_2
* u13  gnd net-_u13-pad2_ adc_bridge_1
* u15  net-_u15-pad1_ net-_u15-pad2_ /m0 /m1 dac_bridge_2
r2  /m7 gnd 1k
r3  net-_r3-pad1_ gnd 1k
r1  /m6 ? 1k
* u1  /m6 plot_v1
* u4  /m7 plot_v1
x3 net-_x3-pad1_ net-_x3-pad2_ net-_x3-pad3_ net-_u13-pad2_ net-_x3-pad5_ net-_x3-pad6_ net-_u13-pad2_ net-_u13-pad2_ net-_u13-pad2_ net-_x2-pad5_ net-_x2-pad6_ net-_x2-pad7_ net-_u12-pad2_ net-_x3-pad14_ net-_x3-pad15_ net-_x1-pad1_ net-_x3-pad17_ net-_x3-pad18_ CSA
r4  /m4 gnd 1k
r5  /m5 gnd 1k
* u9  /m4 plot_v1
* u11  /m5 plot_v1
r6  gnd /m3 1k
r7  gnd /m2 1k
* u14  /m2 plot_v1
* u19  /m3 plot_v1
r8  gnd /m1 1k
r9  gnd /m0 1k
* u18  /m0 plot_v1
* u17  /m1 plot_v1
* u20  /a0 plot_v1
* u21  /a1 plot_v1
* u22  /a2 plot_v1
* u23  /a3 plot_v1
x1 net-_x1-pad1_ net-_x1-pad2_ net-_u13-pad2_ net-_u13-pad2_ net-_x1-pad5_ net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ carrylook
x4 net-_x3-pad14_ net-_x3-pad15_ net-_x3-pad17_ net-_x3-pad18_ net-_u13-pad2_ net-_u10-pad1_ net-_u10-pad2_ net-_x1-pad5_ carrylook
* u8  /b0 /b1 /b2 /b3 net-_u8-pad5_ net-_u8-pad6_ net-_u8-pad7_ net-_u8-pad8_ adc_bridge_4
v1  /b0 gnd pulse(5 5 0 1e-9 1e-9 0.5-6 1e-6)
v2  /b1 gnd pulse(0 0 1e-6 1e-9 1e-9 0.5e-6 1e-6)
v3  /b2 gnd pulse(5 5 2e-6 1e-9 1e-9 0.5e-6 1e-6)
v4  /b3 gnd pulse(5 5 3e-6 1e-9 1e-9 0.5e-6 1e-6)
v5  /a0 gnd pulse(0 0 4e-6 1e-9 1e-9 0.5e-6 1e-6)
v6  /a1 gnd pulse(5 5 5e-6 1e-9 1e-9 0.5e-6 1e-6)
v7  /a2 gnd pulse(5 5 6e-6 1e-9 1e-9 0.5e-6 1e-6)
v8  /a3 gnd pulse(0 0 7e-6 1e-9 1e-9 0.5e-6 1e-6)
* u16  /a0 /a1 /a2 /a3 net-_u16-pad5_ net-_u16-pad6_ net-_u16-pad7_ net-_u16-pad8_ adc_bridge_4
a1 [net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ ] [net-_r3-pad1_ /m7 /m6 ] u6
a2 [net-_u10-pad1_ net-_u10-pad2_ ] [/m4 /m5 ] u10
a3 [net-_u12-pad1_ net-_u12-pad2_ ] [/m2 /m3 ] u12
a4 [gnd ] [net-_u13-pad2_ ] u13
a5 [net-_u15-pad1_ net-_u15-pad2_ ] [/m0 /m1 ] u15
a6 [/b0 /b1 /b2 /b3 ] [net-_u8-pad5_ net-_u8-pad6_ net-_u8-pad7_ net-_u8-pad8_ ] u8
a7 [/a0 /a1 /a2 /a3 ] [net-_u16-pad5_ net-_u16-pad6_ net-_u16-pad7_ net-_u16-pad8_ ] u16
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 20e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(/b3)
plot v(/b2)
plot v(/b1)
plot v(/b0)
plot v(/m6)
plot v(/m7)
plot v(/m4)
plot v(/m5)
plot v(/m2)
plot v(/m3)
plot v(/m0)
plot v(/m1)
plot v(/a0)
plot v(/a1)
plot v(/a2)
plot v(/a3)
.endc
.end
