* Subcircuit carrylook
.subckt carrylook net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\carrylook\carrylook.cir
* u2  net-_u1-pad2_ net-_u1-pad1_ net-_u10-pad1_ d_and
* u6  net-_u11-pad3_ net-_u4-pad3_ net-_u10-pad2_ d_and
* u4  net-_u1-pad1_ net-_u1-pad2_ net-_u4-pad3_ d_xor
* u7  net-_u11-pad3_ net-_u4-pad3_ net-_u1-pad7_ d_xor
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u1-pad8_ d_or
* u3  net-_u1-pad4_ net-_u1-pad3_ net-_u11-pad2_ d_and
* u8  net-_u1-pad5_ net-_u5-pad3_ net-_u11-pad1_ d_and
* u5  net-_u1-pad4_ net-_u1-pad3_ net-_u5-pad3_ d_xor
* u9  net-_u1-pad5_ net-_u5-pad3_ net-_u1-pad6_ d_xor
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_or
a1 [net-_u1-pad2_ net-_u1-pad1_ ] net-_u10-pad1_ u2
a2 [net-_u11-pad3_ net-_u4-pad3_ ] net-_u10-pad2_ u6
a3 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u4-pad3_ u4
a4 [net-_u11-pad3_ net-_u4-pad3_ ] net-_u1-pad7_ u7
a5 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u1-pad8_ u10
a6 [net-_u1-pad4_ net-_u1-pad3_ ] net-_u11-pad2_ u3
a7 [net-_u1-pad5_ net-_u5-pad3_ ] net-_u11-pad1_ u8
a8 [net-_u1-pad4_ net-_u1-pad3_ ] net-_u5-pad3_ u5
a9 [net-_u1-pad5_ net-_u5-pad3_ ] net-_u1-pad6_ u9
a10 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u2 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u4 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u7 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u5 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u9 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends carrylook